US08871756B2
tert-Butyl (4S)-4-(aminomethyl)-2,2-dimethyl-1,3-oxazolidine-3-carboxylate
A mixture of tert-butyl (4S)-4-[(benzylamino)methyl]-2,2-dimethyl-1,3-oxazolidine-3-carboxylate (810 mg, 2.53 mmol), palladium hydroxide on carbon (81 mg) and methanol (20 mL) was stirred at room temperature under hydrogen atmosphere overnight. The catalyst was removed by filtration. The filtrate was concentrated in vacuo. The residue was purified by SPE (12 mL tube, 2 gram of DSC-SCX) to afford the pure product.

reactant | tert-butyl (4S)-4-[(benzylamino)methyl]-2,2-dimethyl-1,3-oxazolidine-3-carboxylate | 2.53 mmol, 810 mg | C(C1=CC=CC=C1)NC[C@@H]1N(C(OC1)(C)C)C(=O)OC(C)(C)C | C18H28N2O3
catalyst | palladium hydroxide on carbon | 81 mg | [OH-].[OH-].[Pd+2]
solvent | methanol | 20 mL | CO | CH4O
product | tert-Butyl (4S)-4-(aminomethyl)-2,2-dimethyl-1,3-oxazolidine-3-carboxylate | NC[C@@H]1N(C(OC1)(C)C)C(=O)OC(C)(C)C | C11H22N2O3
